
.SUBCKT Well_Check IN ZN IN_2 ZN_2 VDD GND VDD_2 GND_2
*.PININFO I:I ZN:O VDD:P VNW:P VPW:P VSS:G 
*.ORDERING_0_PUP M_i_1 VDD ZN
*.ORDERING_0_PDN M_i_0 GND ZN
*.EQN ZN=!IN
M_i_0 ZN IN GND GND nfet W=0.288000U L=0.020000U nfin=2
M_i_1 ZN IN VDD VDD pfet W=0.288000U L=0.020000U nfin=2
M_j_0 ZN_2 IN_2 GND_2 GND_2 nfet W=0.288000U L=0.020000U nfin=2
M_j_1 ZN_2 IN_2 VDD_2 VDD_2 pfet W=0.288000U L=0.020000U nfin=2
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
